US08431695B2
Step 3: Preparation of 2-benzyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3-benzothiazole
To the degassed suspension of 2-benzyl-6-bromo-1,3-benzothiazole (1.40 g, 4.14 mmol), bis(pinacolato)diboron (1.61 g, 6.21 mmol) and potassium acetate (1.22 g, 12.43 mmol) in 1,4-dioxane (34 mL), 1-1′-bis(diphenylphosphino)ferrocenepalladium(11)chloride dichloromethane adduct (303 mg, 0.37 mmol) was added. The mixture was heated at 80° C. for 7 h followed by 90° C. for 1 h. The mixture was filtered and the cake was washed with EtOAc, MeOH and DCM. The filtrate was concentrated. The crude material was purified by ISCO® chromatography using 3% EtOAc in hexane to obtain the desired product (0.92 g, 63%). 1H NMR (400 MHz, acetone-d6) δ 8.30 (s, 1H), 7.88 (d, 1H), 7.82 (d, 1H), 7.44-7.30 (m, 5H), 4.52 (s, 2H), 1.22 (s, 12H); LC-MS m/z [M+H]+ 352.3, RT 3.88 min.

reactant | 2-benzyl-6-bromo-1,3-benzothiazole | 4.14 mmol, 1.40 g | C(C1=CC=CC=C1)C=1SC2=C(N1)C=CC(=C2)Br | C14H10BrNS
reactant | bis(pinacolato)diboron | 6.21 mmol, 1.61 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 12.43 mmol, 1.22 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 34 mL | O1CCOCC1 | C4H8O2
product | 2-benzyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3-benzothiazole | 0.92 g, 63% | C(C1=CC=CC=C1)C=1SC2=C(N1)C=CC(=C2)B2OC(C(O2)(C)C)(C)C | C20H22BNO2S
